US07872031B2
A solution of ethyl 2-(furan-2-yl)-2-hydroxyacetate (11.05 g, 64.5 mmol), trimethylorthoacetate (29.8 mL, 387 mmol) and hexanoic acid (2 mL) in decalin (195 mL) is heated at 180° C. for 12 hours. The reaction is cooled and extracted with methanol to provide a mixture of diester and decalin. This mixture is dissolved in methanol (250 mL), cooled to 0° C., treated with 2 M NaOH (150 mL) and stirred for 12 hours. The methanol is removed and the crude reaction is extracted with ether, and the basic layer is acidified with 6 N HCl and extracted with ethyl acetate. The organic layer is washed with brine, dried and concentrated to give 2,3-di(carboxymethyl)furan.

reactant | ethyl 2-(furan-2-yl)-2-hydroxyacetate | 64.5 mmol, 11.05 g | O1C(=CC=C1)C(C(=O)OCC)O | C8H10O4
reactant | trimethylorthoacetate | 387 mmol, 29.8 mL | CC(C([O-])([O-])[O-])(C)C
reactant | hexanoic acid | 2 mL | C(CCCCC)(=O)O | C6H12O2
reactant | NaOH | 2 M, 150 mL | [OH-].[Na+]
solvent | decalin | 195 mL | C1CCCC2CCCCC12 | C10H18
solvent | methanol | 250 mL | CO | CH4O
product | 2,3-di(carboxymethyl)furan | C(=O)(O)CC=1OC=CC1CC(=O)O | C8H8O5
